US07601843B2
Methyl 3-[4-(5-methylpyridin-2-yl)aminopiperidin-1-ylmethyl]tricyclo[3.3.1.13,7]decane--1-carboxylate
After dissolving methyl 3-hydroxymethyltricyclo[3.3.1.1 3,7]decane-1-carboxylate (0.1648 g, 0.735 mmol) and pyridine (0.0829 g, 1.05 mmol) in methylene chloride (5 mL), trifluoromethanesulfonic anhydride (0.185 mL, 1.11 mmol) was added dropwise while cooling on ice and the mixture was stirred for 1 hour. Water (10 mL) was added to the reaction mixture, and after extraction with ethyl acetate (20 mL), the extract was washed with 1N HCl (10 mL), saturated aqueous NaHCO3 (10 mL) and brine (10 mL) in that order and dried over anhydrous magnesium sulfate, and then 4-(5-methylpyridin-2-yl)aminopiperidine (0.2995 g, 1.57 mmol) was mixed therewith and the solvent was distilled off under reduced pressure. The obtained yellow oil was heated at 60° C. for 1 hour. It was then subjected to chromatography (50 g Merck Art. 9385, methylene chloride:methanol:ammonia water=97:3:0.2) to obtain the title compound as a white solid (0.2398 g, 0.603 mmole) (82% yield).

reactant | methyl 3-hydroxymethyltricyclo[3.3.1.1 3,7]decane-1-carboxylate | 0.735 mmol, 0.1648 g | OCC12CC3(CC(CC(C1)C3)C2)C(=O)OC | C13H20O3
reactant | pyridine | 1.05 mmol, 0.0829 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 1.11 mmol, 0.185 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 4-(5-methylpyridin-2-yl)aminopiperidine | 1.57 mmol, 0.2995 g | CC=1C=CC(=NC1)NC1CCNCC1 | C11H17N3
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 10 mL | O | H2O
product | Methyl 3-[4-(5-methylpyridin-2-yl)aminopiperidin-1-ylmethyl]tricyclo[3.3.1.13,7]decane--1-carboxylate | 0.603 mmole, 0.2398 g, 82% yield | CC=1C=CC(=NC1)NC1CCN(CC1)CC12CC3(CC(CC(C1)C3)C2)C(=O)OC | C24H35N3O2
